US03969463
4,6-Dichloroquinaldine was reduced with rhodium on carbon to give 6-chloro-2-methyltetrahydroquinoline.

reactant | 4,6-Dichloroquinaldine | ClC1=CC(=NC2=CC=C(C=C12)Cl)C | C10H7Cl2N
catalyst | rhodium on carbon | [Rh] | Rh
product | 6-chloro-2-methyltetrahydroquinoline | ClC=1C=C2CCC(NC2=CC1)C | C10H12ClN
